US04219657
74.0 G. of 4-oxocyclohexaneacetic acid ethyl ester and 1200 ml. of anhydrous ether were placed in a 3 l. three-necked flask, provided with a thermometer, nitrogen inlet, dropping funnel, condenser and stirrer. The solution was cooled to -10° by means of a dry ice-acetone bath, and 64.0 g. of bromine was added dropwise over a period of 30-40 minutes. The resulting colorless solution was washed three times with 100 ml. of water, then two times with 125 ml. of cold saturated sodium bicarbonate solution followed by 100 ml. of water. The combined aqueous solutions were extracted twice with 150 ml. of ether. The combined ether extracts were dried over anhydrous magnesium sulfate, and the ether was removed by distillation from a steam bath at atmospheric pressure to give a residue of crude 3-bromo-4-oxocyclohexaneacetic acid ethyl ester, weighing 105 g.

reactant | 4-oxocyclohexaneacetic acid ethyl ester | C(C)OC(CC1CCC(CC1)=O)=O | C10H16O3
reactant | bromine | BrBr | Br2
solvent | ether | CCOCC | C4H10O
product | 3-bromo-4-oxocyclohexaneacetic acid ethyl ester | C(C)OC(CC1CC(C(CC1)=O)Br)=O | C10H15BrO3
